US08022062B2
2-Oxo-2,3-dihydro-benzothiazole-6-carbonitrile:
Combine 6-bromobenzothiazolinone (2 g, 8.69 mmol), copper cyanide (1.3 g, 1.48 mmol), anhydrous DMF (5 mL) and heat at reflux for 15 h. Add water (20 mL) and sodium cyanide (1.4 g, 27.7 mmol) at 100° C. Cool the reaction mixture to room temperature and stir for 2 h. Extract the reaction mixture with EtOAc (5×30 mL) at 70° C. Combine the organic layers, wash with water (3×40 mL) and dry over anhydrous Na2SO4. Concentrate in vacuo to obtain the desired intermediate as a yellow solid (2 g, 87%). GC-MS m/z: 176 (M+).

reactant | 6-bromobenzothiazolinone | 8.69 mmol, 2 g | BrC1=CC2=C(N=CS2=O)C=C1 | C7H4BrNOS
reactant | copper cyanide | 1.48 mmol, 1.3 g | [Cu](C#N)C#N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | sodium cyanide | 27.7 mmol, 1.4 g | [C-]#N.[Na+]
solvent | water | 20 mL | O | H2O
product | 2-Oxo-2,3-dihydro-benzothiazole-6-carbonitrile | 2 g, 87% | O=C1SC2=C(N1)C=CC(=C2)C#N | C8H4N2OS
